US07405221B2
2-Methylsulfonyl-4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)pyrimidine from Reference Example 3 was reacted with 3-fluorophenol according to the procedure described in Example 74 to afford 2-(3-fluorophenyloxy)-4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)pyrimidine: HPLC/MS: m/e=445 (M++1); Rt=4.50 min; 1H-NMR 400 MHz (CDCl3): δ 7.05. (m, 3H), 7.21-7.30 (m, 6H), 7.38-7.42 (m, 2H), 8.60 (s, 1H).

reactant | 2-Methylsulfonyl-4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)pyrimidine | CS(=O)(=O)C1=NC=C(C(=N1)C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)Cl | C17H11Cl3N2O2S
reactant | 3-fluorophenol | FC=1C=C(C=CC1)O | C6H5FO
product | 2-(3-fluorophenyloxy)-4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)pyrimidine | FC=1C=C(C=CC1)OC1=NC=C(C(=N1)C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)Cl | C22H12Cl3FN2O
